US08455496B2
Preparation of Starting Material 5-bromo-N-ethyl-N-methylpyrimidine-2-carboxamide (SM-3)
5-Bromo-pyrimidine-2-carbonyl chloride (1600 mg, 7.225 mmol) was dissolved in dichloromethane (25 ml) and triethylamine (4.03 ml, 28.9 mmol) was added followed by ethyl-methyl-amine (0.68 mL, 7.92 mmol). The reaction was stirred at room temperature under nitrogen for 16 ours, after which time, LCMS indicated completion. The mixture was diluted with dichloromethane (50 ml) and washed with water (50 ml) followed by 10% citric acid (50 ml) and brine (50 ml). The organic layer was separated and dried over MgSO4, the residue was filtered and the solvent was removed in vacuo to afford the title compound 5-bromo-N-ethyl-N-methylpyrimidine-2-carboxamide (SM-3): (1.4 g, 79.4%) as a brown oil.

reactant | 5-Bromo-pyrimidine-2-carbonyl chloride | 7.225 mmol, 1600 mg | BrC=1C=NC(=NC1)C(=O)Cl | C5H2BrClN2O
reactant | triethylamine | 28.9 mmol, 4.03 ml | C(C)N(CC)CC | C6H15N
reactant | ethyl-methyl-amine | 7.92 mmol, 0.68 mL | C(C)NC | C3H9N
solvent | dichloromethane | 25 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | 5-bromo-N-ethyl-N-methylpyrimidine-2-carboxamide | BrC=1C=NC(=NC1)C(=O)N(C)CC | C8H10BrN3O
